US09447035B2
To a suspension of (S)-2-(4-aminomethyl-2,6-difluorobenzoylamino)-3-[4-(1,3,6-trimethyl-2,4-dioxo-1,2,3,4-tetrahydropyrimidin-5-yl)phenyl]propionic acid propyl ester (508 mg, 0.96 mmol) in THF (10 mL) was added a solution of lithium hydroxide (240 mg, 10 mmol) in water (2 mL) at room temperature. The mixture was stirred for 15 h at which time TLC analysis indicated the absence of starting material. Then, the THF was removed under reduced pressure and the residue was diluted with water (100 mL) and the mixture was acidified with TFA. The crude product was purified by HPLC to afford 450 mg (78% yield) of (S)-2-(4-aminomethyl-2,6-difluorobenzoylamino)-3-[4-(1,3,6-trimethyl-2,4-dioxo-1,2,3,4-tetrahydropyrimidin-5-yl)phenyl]propionic acid as a TFA salt as a white solid. ES-LRMS m/e calcd for C24H24F2N4O5 (M+H)+ 487, found 487.

reactant | (S)-2-(4-aminomethyl-2,6-difluorobenzoylamino)-3-[4-(1,3,6-trimethyl-2,4-dioxo-1,2,3,4-tetrahydropyrimidin-5-yl)phenyl]propionic acid propyl ester | 0.96 mmol, 508 mg | C(CC)OC([C@H](CC1=CC=C(C=C1)C=1C(N(C(N(C1C)C)=O)C)=O)NC(C1=C(C=C(C=C1F)CN)F)=O)=O | C27H30F2N4O5
reactant | lithium hydroxide | 10 mmol, 240 mg | [OH-].[Li+]
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | water | 2 mL | O | H2O
product | (S)-2-(4-aminomethyl-2,6-difluorobenzoylamino)-3-[4-(1,3,6-trimethyl-2,4-dioxo-1,2,3,4-tetrahydropyrimidin-5-yl)phenyl]propionic acid | 450 mg, 78% yield | NCC1=CC(=C(C(=O)N[C@H](C(=O)O)CC2=CC=C(C=C2)C=2C(N(C(N(C2C)C)=O)C)=O)C(=C1)F)F | C24H24F2N4O5
